US05646173
1.9 g of (R)-1-(2-azido-propyl)-4,5-dihydro-8-methoxy-1H-benz[g]indole dissolved in 100 ml of anhydrous ethanol were hydrogenated on 190 mg of platinum oxide for 16 hours. The catalyst was subsequently filtered off, rinsed with ethonal and the solvent was drawn off in a vacuum. There were obtained 1.64 g (95%) of (R)-2-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine as a colorless oil, of which 440 mg were dissolved in 70 ml of anhydrous ether, filtered and treated while stirring with a solution of 200 mg of fumaric acid in 20 ml of methanol the mixture was stirred at room temperature for 2 hours and the white crystals were subsequently filtered off. 450 mg (70%) of (R)-2-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine fumarate (1:1) with m.p. 194° were obtained.

reactant | (R)-1-(2-azido-propyl)-4,5-dihydro-8-methoxy-1H-benz[g]indole | 1.9 g | N(=[N+]=[N-])[C@@H](CN1C=CC=2CCC3=C(C12)C=C(C=C3)OC)C | C16H18N4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 190 mg | [Pt]=O
product | (R)-2-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine | 1.64 g, 95% | COC1=CC2=C(CCC=3C=CN(C23)C[C@@H](C)N)C=C1 | C16H20N2O
